US05006563
A slurry of 3.0 g of 3-dimethylaminophenol, 6.05 g of milled potassium carbonate and 75 ml of acetone was stirred at room temperature under nitrogen for 30 minutes and then a solution of 7.66 g of α-bromo-3-chloroacetophenone in 75 ml of acetone was added dropwise. The slurry was stirred at room temperature for 72 hours. Filtration and evaporation gave a residue which was purified by high performance liquid chromatography (7:1 hexane-ethyl acetate). The resulting solid was recrystallized from ethyl acetate-hexane to give 3.0 g of 1-(3-chlorophenyl)-2-[3-(dimethylamino)phenoxy]ethanone, m.p. 101°-103° C.

reactant | 3-dimethylaminophenol | 3.0 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | potassium carbonate | 6.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-bromo-3-chloroacetophenone | 7.66 g | C1=CC(=CC(=C1)Cl)C(=O)CBr | C8H6BrClO
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1-(3-chlorophenyl)-2-[3-(dimethylamino)phenoxy]ethanone | 3.0 g | ClC=1C=C(C=CC1)C(COC1=CC(=CC=C1)N(C)C)=O | C16H16ClNO2
